US05936097
0.9 g (8.9 mmol) of triethylamine and 1.085 g (10 mmol) of ethyl chloroformate in solution in 40 cm3 of acetone are successively added to a solution of 3.43 g (7.4 mmol) of (3aRS, 4SR, 9SR, 9aRS)-4,9-ethano-2-(2-methoxyphenyl)acetyl-9-phenyl-2,3,3a,4,9,9a-hexahydro-1H-benzo[f]isoindole-3a-carboxylic acid in 20 cm3 of acetone and 6 cm3 of water, which solution has been cooled to 0-2° C. and maintained under a nitrogen atmosphere. After stirring for 30 minutes at 0-5° C., a solution of 0.77 g (7.4 mmol) of sodium azide in 15 cm3 of water is added dropwise and stirring is then maintained at 0-5° C. for 1 hour. The reaction mixture is then poured into 200 cm3 of water and the acylazide is extracted with 5 times 40 cm3 of ethyl ether. The combined organic phases are washed with water and then dried over magnesium sulphate. After evaporating the ether under reduced pressure, 50 cm3 of toluene are added. The mixture is then gradually heated to 85-90° C. and then at reflux for 1 hour after gas evolution has ceased. The crystals formed on cooling are filtered off and then washed with petroleum ether. 2.98 g (88%) of (3aRS, 4SR, 9SR, 9aRS)-4,9-ethano-3a-isocyanate-2-(2-methoxyphenyl)acetyl-9-phenyl-2,3,3a,4,9,9a-hexahydro-1H-benzo[f]isoindole are thus obtained in the form of a white powder, the characteristics of which are as follows: melting point=185° C., mass spectrum (E.I.) M/Z=464 (M+)

reactant | triethylamine | 8.9 mmol, 0.9 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 10 mmol, 1.085 g | ClC(=O)OCC | C3H5ClO2
reactant | 2-(2-methoxyphenyl)acetyl-9-phenyl-2,3,3a,4,9,9a-hexahydro-1H-benzo[f]isoindole-3a-carboxylic acid | COC1=C(C=CC=C1)CC(=O)C1NCC2(CC3=C(C(C12)C1=CC=CC=C1)C=CC=C3)C(=O)O | C28H27NO4
reactant | sodium azide | 7.4 mmol, 0.77 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 40 cm3 | CC(=O)C | C3H6O
solvent | acetone | 20 cm3 | CC(=O)C | C3H6O
solvent | water | 6 cm3 | O | H2O
solvent | water | 15 cm3 | O | H2O
solvent | water | 200 cm3 | O | H2O
product | isocyanate 2-(2-methoxyphenyl)acetyl-9-phenyl-2,3,3a,4,9,9a-hexahydro-1H-benzo[f]isoindole | [N-]=C=O.COC1=C(C=CC=C1)CC(=O)C1NCC2CC3=C(C(C12)C1=CC=CC=C1)C=CC=C3 | InChI=1S/C27H27NO2.CNO/c1-30-24-14-8-6-12-20(24)16-23(29)27-26-21(17-28-27)15-19-11-5-7-13-22(19)25(26)18-9-3-2-4-10-18;2-1-3/h2-14,21,25-28H,15-17H2,1H3;/q;-1
